US08378110B1
Sodium hydride (17.26 g, 072 mol of 60% dispersion in a mineral oil) was washed with toluene (25 ml×2) to remove mineral oil and added to 25 ml of DMF. To this a solution containing 1-(but-1-enyl)-pyrrolidin-2-one (1.50 g, 0.3597 mol) and methyl nicotinate (41.8 g, 0.3057 mol) in 50 ml of DMF was added. The reaction mixture was heated to 90° C. for 2 hrs. DMF was partially removed under reduced pressure and 100 ml water and HCl (165 ml) were added. The reaction mixture was heated to 110° C. for 12 hr, cooled and washed with ethyl acetate (50 ml×2). The aqueous layer was cooled to 0° C., pH adjusted to about 14 using NaOH, extracted with dichloromethane (100 ml×4), the extract dried over Na2SO4, the solvent removed completely and the crude solid was purified by high vacuum distillation to get myosmine (34.38 g, 77.2% yield, 98.5% purity by GC).

reactant | 1-(but-1-enyl)-pyrrolidin-2-one | 0.3597 mol, 1.50 g | C(=CCC)N1C(CCC1)=O | C8H13NO
reactant | methyl nicotinate | 0.3057 mol, 41.8 g | C(C1=CN=CC=C1)(=O)OC | C7H7NO2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | myosmine | 34.38 g, 77.2% yield | C1=CC(=CN=C1)C2=NCCC2 | C9H10N2
